US08865712B2
i) ((2R,5R)-5-{6-[(5-Cyano-3-methyl-pyridine-2-carbonyl)-amino]-pyridin-2-yl}-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester
A mixture of [(2R,5R)-5-(6-Bromo-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (60.00 mg, 0.133 mmol), 5-cyano-3-methylpicolinamide (23.52 mg, 0.146 mmol), Xantphos (6.91 mg, 0.012 mmol) and Cs2CO3 (60.50 mg, 0.186 mmol) in dioxane (0.611 ml) was degassed with argon for 5 min, then Pd2dba3 (3.64 mg, 3.98 μmol) was added and the reaction mixture was stirred at 40° C. for 18 h. The reaction mixture was diluted with H2O and TBME. The phases were separated and the aq. phase was reextracted with TBME. The combined org. phases were washed with brine, dried over Na2SO4, filtered and concentrated. HPLC purification (Alltech Grom Saphir 65 Si 10 μM column, 150×30 mm, gradient n-heptane:EtOAc 0-1.2 min 75:25, 1.2-9 min 0:100, 9-12 min 0:100, flow: 50 ml/min, detection: 254 nm) yielded the title compound as a colourless solid. HPLC RtH4=1.37 min; ESIMS: 533 [(M+H)+]; 1H NMR (400 MHz, CDCl3): δ 11.22 (s, 1H), 10.47 (s, 1H), 8.78 (d, 1H), 8.33 (d, 1H), 7.98 (d, 1H), 7.84-7.80 (m, 1H), 7.13 (d, 1H), 4.37 (d, 1H), 4.11 (d, 1H), 2.88 (s, 3H), 1.64 (s, 3H), 1.57 (br s, 12H).

reactant | [(2R,5R)-5-(6-Bromo-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 0.133 mmol, 60.00 mg | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=NC(=CC=C1)Br)(C(F)(F)F)C)=O | C17H21BrF3N3O3
reactant | 5-cyano-3-methylpicolinamide | 0.146 mmol, 23.52 mg | C(#N)C=1C=C(C(=NC1)C(=O)N)C | C8H7N3O
reactant | Xantphos | 0.012 mmol, 6.91 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.186 mmol, 60.50 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 0.611 ml | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
solvent | TBME | CC(C)(C)OC | C5H12O
catalyst | Pd2dba3 | 3.98 μmol, 3.64 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ((2R,5R)-5-{6-[(5-Cyano-3-methyl-pyridine-2-carbonyl)-amino]-pyridin-2-yl}-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=NC(=CC=C1)NC(=O)C1=NC=C(C=C1C)C#N)(C(F)(F)F)C)=O | C25H27F3N6O4
